Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
MVC
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w PMH metastatic breast CA, transfer from ___
for rib fractures and trauma eval s/p MVC. Patient was driving
this evening when she swerved to miss ___ pedestrian in the road,
hitting a telephone pole on the driver's side. She was driving
~30mph. No headstrike or LOC. Belted, + air bag deployment.
Unable to open driver's side door, but minimal intrusion into
vehicle. Able to stand at scene without pain. Workup at
___ significant for negative CT head and c-spine. 
Patient
c/o chest wall tenderness left side, left hip pain.

 
Past Medical History:
HTN, breast CA, thyroid ca

s/p thyroidectomy, R mastectomy, L meniscus repair ___

 
Social History:
___
Family History:
NC
 
Physical Exam:
Gen: NAD, AOx3
HEENT: b/l LAD, trachea midline, no thyromegaly
CV: RRR no MRG
Resp: CTAB no WRC
Abd: soft, ND, mildly tender to deep palpation in epigastrum
Ext: WWP no CCE, 2+ pulses
 
Pertinent Results:
Left Hip/Pelvis XR ___
No acute left femoral fracture is seen.
There is asymmetric sclerosis involving the left sacral ala.  
This could
reflect sequela of a subacute or chronic fracture but is 
nonspecific.  It is
difficult to exclude a sclerotic lesion.

Left Hand/Wrist XR ___
No acute fracture or dislocation.

CT Abd/Pelvis ___
1. 3 cm left adnexal cyst should be further evaluated by pelvic 
ultrasound non
urgently.
2.  No evidence of traumatic injury in the abdomen or pelvis.
3.  Small left pleural effusion with left lower lobe 
atelectasis.

___ 02:35AM BLOOD WBC-8.8 RBC-4.13 Hgb-12.6 Hct-38.7 MCV-94 
MCH-30.5 MCHC-32.6 RDW-13.7 RDWSD-46.8* Plt ___

___ 02:35AM BLOOD ___ PTT-33.1 ___

___ 02:35AM BLOOD Glucose-130* UreaN-16 Creat-1.0 Na-141 
K-3.9 Cl-104 HCO3-26 AnGap-15
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the Acute Care Surgery team. The patient was found 
to have multiple rib fractures and was admitted to the Acute 
Care Surgery Service. The patient tolerated a regular diet. The 
patient was given anticoagulation per routine. The patient's 
home medications were continued throughout this hospitalization. 
The patient worked with ___ who determined that discharge to home 
was appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, with good effort on IS. The patient will 
follow up with the Acute Care Surgery Clinic per routine. A 
thorough discussion was had with the patient regarding the 
diagnosis and expected post-discharge course including reasons 
to call the office or return to the hospital, and all questions 
were answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.

 
Medications on Admission:
1. Venlafaxine XR 150 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. ___ Study Med 2 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. letrozole 2.5 mg oral DAILY 
6. Levothyroxine Sodium 175 mcg PO DAILY 
7. MethylPHENIDATE (Ritalin) 15 mg PO DAILY 
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*2
2. Atenolol 50 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
4. ___ Study Med 2 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. letrozole 2.5 mg oral DAILY 
7. Levothyroxine Sodium 175 mcg PO DAILY 
8. MethylPHENIDATE (Ritalin) 15 mg PO DAILY 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4hrs Disp #*30 Tablet 
Refills:*0
10. Senna 8.6 mg PO BID 
RX *sennosides 8.6 mg 1 tablet by mouth twice a day Disp #*20 
Tablet Refills:*0
11. Venlafaxine XR 150 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Rib fractures- Left ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* Your injury caused Left ___ rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain. 

 * You should take your pain medication as directed to stay 
ahead of the pain otherwise you won't be able to take deep 
breaths. If the pain medication is too sedating take half the 
dose and notify your physician. 

* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs. 

 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing. 

* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain. 

* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible. 

* Do NOT smoke  

* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___